US05234900
Step A: (±)-diethyl 3,6-dihydro-4-methyl-2H-pyran-2,2-dicarboxylate
To 50 g (0.70 mol) isoprene was added 25 g (0.14 mol) diethylketomalonate and 0.78 g (2.4 mmol) zinc iodide. The reaction mixture was stirred at room temperature for 48 hours. The excess isoprene was removed under vacuum. Flash chromatography in 20:1 hexanes:ethyl acetate yielded 1.2 g of oil.

reactant | isoprene | 0.70 mol, 50 g | C=CC(C)=C | C5H8
reactant | diethylketomalonate | 0.14 mol, 25 g | C(C)OC(C(C(=O)OCC)=O)=O | C7H10O5
catalyst | zinc iodide | 2.4 mmol, 0.78 g | [I-].[Zn+2].[I-]
product | (±)-diethyl 3,6-dihydro-4-methyl-2H-pyran-2,2-dicarboxylate | 1.2 g | CC=1CC(OCC1)(C(=O)OCC)C(=O)OCC | C12H18O5
